US05506089
4-(4-methylstyryl) quinoline (0.245 g) and 2-(2-bromoethyl) 1,3-dioxane (0.195 g) were mixed and refluxed in ethylacetate (1.5 ml) for 18 hours. Yellow-green precipitate was separated by filtration, washed with ethyl ether and dried in vacuo to give 0.308 g of N-[2-(1,3-dioxane-2-yl) ethyl]-4-(4-methylstyryl)-quinolinium bromide.

reactant | 4-(4-methylstyryl) quinoline | 0.245 g | CC1=CC=C(C=CC2=CC=NC3=CC=CC=C23)C=C1 | C18H15N
reactant | 2-(2-bromoethyl) 1,3-dioxane | 0.195 g | BrCCC1OCCCO1 | C6H11BrO2
solvent | ethylacetate | 1.5 ml | C(C)OC(C)=O | C4H8O2
product | N-[2-(1,3-dioxane-2-yl) ethyl]-4-(4-methylstyryl)-quinolinium bromide | 0.308 g | [Br-].O1C(OCCC1)CC[N+]1=CC=C(C2=CC=CC=C12)C=CC1=CC=C(C=C1)C | InChI=1S/C24H26NO2.BrH/c1-19-7-9-20(10-8-19)11-12-21-13-15-25(23-6-3-2-5-22(21)23)16-14-24-26-17-4-18-27-24;/h2-3,5-13,15,24H,4,14,16-18H2,1H3;1H/q+1;/p-1
